US07985740B2
d) [2-(1-methyl-1H-imidazol-4-yl)ethyl]amine
[2-(1-methyl-1H-imidazol-4-yl)ethyl]amine bis(4-methylbenzenesulfonate) (50 g) was dissolved in IMS (200 ml)/water (200 ml). This was passed through a DOWEX550A column (600 g), eluting with IMS (ca. 4 litres). Appropriate fractions were combined and concentrated in vacuo to yield the title compound, 13.4 g.

reactant | [2-(1-methyl-1H-imidazol-4-yl)ethyl]amine bis(4-methylbenzenesulfonate) | 50 g | CC1=CC=C(C=C1)S(=O)(=O)O.CC1=CC=C(C=C1)S(=O)(=O)O.CN1C=NC(=C1)CCN
solvent | water | 200 ml | O | H2O
product | [2-(1-methyl-1H-imidazol-4-yl)ethyl]amine | CN1C=NC(=C1)CCN | C6H11N3
